MM3 (VOUT1 VSS net13 VSS) nmos4
MM0 (net11 net12 net13 VSS) nmos4
MM4 (net13 net1005 VSS VSS) nmos4
MM6 (net11 net18 net19 VDD) pmos4
MM5 (VOUT1 net18 net20 VDD) pmos4
MM1 (net20 net11 VDD VDD) pmos4
MM2 (net19 net11 VDD VDD) pmos4
MM0 (VB1 net1005 VSS VSS) nmos4
MM8 (net1005 net1005 VSS VSS) nmos4
MM3 (VB1 VB1 VDD VDD) pmos4
MM10 (net1005 net1006 VDD VDD) pmos4
RR0 (VB2 VSS) resistor
MM2 (net1006 net12 VB2 VSS) nmos4
MM0 (net12 VB2 VSS VSS) nmos4
MM3 (net1006 net1006 VDD VDD) pmos4
MM1 (net12 net1006 VDD VDD) pmos4
M12 (VIN1 VCLK1 net11 VSS) nmos4
M13 (net11 VCLK2 net12 VSS) nmos4
C1 (net12 VOUT1) capacitor
C0 (net11 VSS) capacitor